US08039460B2
Step D: Benzyl 4-(6-cyclopropyl-3-oxo-2,3,4,5-tetrahydropyridazine-4-yl)piperidine-1-carboxylate
Hydrazine (0.3 mL, 9.6 mmol) was added to a solution of benzyl 4-[3-cyclopropyl-1-(ethoxycarbonyl)-3-oxopropyl]piperidine-1-carboxylate (186 mg, 0.48 mmol) in acetic acid (7 mL). The reaction mixture was heated at 50° C. After 1 h, the reaction mixture was concentrated. The residue was diluted with dichloromethane and neutralized by saturated aqueous sodium bicarbonate. The mixture was extracted with dichloromethane (3×), and the combined organic extracts were dried over magnesium sulfate and concentrated to give the title compound. MS 356.2 (M+1).

reactant | Hydrazine | 9.6 mmol, 0.3 mL | NN | H4N2
reactant | benzyl 4-[3-cyclopropyl-1-(ethoxycarbonyl)-3-oxopropyl]piperidine-1-carboxylate | 0.48 mmol, 186 mg | C1(CC1)C(CC(C(=O)OCC)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O | C22H29NO5
solvent | acetic acid | 7 mL | C(C)(=O)O | C2H4O2
product | Benzyl 4-(6-cyclopropyl-3-oxo-2,3,4,5-tetrahydropyridazine-4-yl)piperidine-1-carboxylate | C1(CC1)C=1CC(C(NN1)=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C20H25N3O3
